US06878746B2
Step 1: 4-[(5R,5aS,8aS,9S)-9-Hydroxy-6-oxo-5,5a,6,8,8a,9-hexahydro-furo [3′,4′:6, 7]naphtho[2,3-d][1,3]dioxol-5-yl]-2,6-dimethoxyphenyl benzyl carbonate
0.55 mmol of triethylamine and 0.37 mmol of benzyl chloroformate are added in succession to a solution of 0.25 mmol of (5R,5aS,8aS,9S)-9-hydroxy-5-(4-hydroxy-3,5-dimethoxyphenyl)-5,8,8a,9-tetrahydrofuro[3′,4′:6,7]naphtho[2,3-d][1,3]dioxol-6(5aH)-one in 10 ml of anhydrous dichloromethane at 0° C. and under argon. After stirring for 1 hour, the reaction mixture is washed with water. The organic phase is then dried, filtered and subsequently concentrated under reduced pressure. Chromatography on silica gel (cyclohexane/ethyl acetate: 60/40) enables the expected product to be isolated.

reactant | triethylamine | 0.55 mmol | C(C)N(CC)CC | C6H15N
reactant | benzyl chloroformate | 0.37 mmol | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
reactant | (5R,5aS,8aS,9S)-9-hydroxy-5-(4-hydroxy-3,5-dimethoxyphenyl)-5,8,8a,9-tetrahydrofuro[3′,4′:6,7]naphtho[2,3-d][1,3]dioxol-6(5aH)-one | 0.25 mmol | O[C@H]1[C@H]2[C@H]([C@@H](C3=CC4=C(OCO4)C=C13)C1=CC(=C(C(=C1)OC)O)OC)C(OC2)=O | C21H20O8
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | 4-[(5R,5aS,8aS,9S)-9-Hydroxy-6-oxo-5,5a,6,8,8a,9-hexahydro-furo [3′,4′:6, 7]naphtho[2,3-d][1,3]dioxol-5-yl]-2,6-dimethoxyphenyl benzyl carbonate | C(OC1=C(C=C(C=C1OC)[C@@H]1C2=CC3=C(OCO3)C=C2[C@H]([C@H]2[C@H]1C(OC2)=O)O)OC)(OCC2=CC=CC=C2)=O | C29H26O10
